US05922732
5-Amino-2,3-dichloropyridine (0.80 g) in dichloromethane (10 ml) was added to boron trifluoride etherate (0.92 ml) at -15° C. under nitrogen. Dichloromethane (15 ml) was added followed by t-butylnitrite (0.71 ml) in dichloromethane (5 ml). After 15 minutes the mixture was allowed to warm to -5° C. over 20 minutes. Hexane was added and the resulting solid was filtered, air-dried and washed with ether and stored at approximately -20° C. overnight. The solid was then heated until gas evolution had ceased and the product kugelrohr distilled to give 2,3-dichloro-5-fluoropyridine (0.104 g).

reactant | 5-Amino-2,3-dichloropyridine | 0.80 g | NC=1C=C(C(=NC1)Cl)Cl | C5H4Cl2N2
reactant | boron trifluoride etherate | 0.92 ml | B(F)(F)F.CCOCC
reactant | t-butylnitrite | 0.71 ml | C(C)(C)(C)ON=O | C4H9NO2
reactant | Hexane | CCCCCC | C6H14
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2,3-dichloro-5-fluoropyridine | 0.104 g | ClC1=NC=C(C=C1Cl)F | C5H2Cl2FN
